US07064215B2
Synthesis of 4-[2-(5-Fluoro-1H-indazol-3-yl)-1-methyl-1H-benzoimidazol-5-yloxy]-pyridine-2-carboxylic acid methylamide
The title compound was synthesized from 5-fluoro-1H-indazole-3-carbaldehyde and 4-(3-amino-4-methylamino-phenoxy)-pyridine-2-carboxylic acid methylamide as described above in Example 4. LC/MS (m/z) 417.4 (MH+), Rt 3.62 minutes.

reactant | 5-fluoro-1H-indazole-3-carbaldehyde | FC=1C=C2C(=NNC2=CC1)C=O | C8H5FN2O
reactant | 4-(3-amino-4-methylamino-phenoxy)-pyridine-2-carboxylic acid methylamide | CNC(=O)C1=NC=CC(=C1)OC1=CC(=C(C=C1)NC)N | C14H16N4O2
product | 4-[2-(5-Fluoro-1H-indazol-3-yl)-1-methyl-1H-benzoimidazol-5-yloxy]-pyridine-2-carboxylic acid methylamide | CNC(=O)C1=NC=CC(=C1)OC1=CC2=C(N(C(=N2)C2=NNC3=CC=C(C=C23)F)C)C=C1 | C22H17FN6O2
